datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][H:18]>>[C:0]([C:1]([C:2]([C:3]([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][O:17][H:18],1.5715104
[C:0]([H:1])([H:2])([H:3])[H:4].[N:5]([H:6])[H:7]>>[C:0]([H:2])([H:3])[H:4].[H:1][N:5]([H:6])[H:7],44.731144
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19],16.736
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[H:9][H:10]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:10])([H:4])[H:5].[H:9],44.7688
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])=[C:3]([O:4][H:12])[H:11])([H:5])([H:6])[H:7].[C:13]([O:14][O:15])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])=[C:3]([O:4][H:12])[H:11])([H:6])[H:7].[H:5][O:15][O:14][C:13]([H:16])([H:17])[H:18],58.19944
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[S:10]([C:11]([c:12]1[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]1[H:25])([H:19])[H:20])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:19])[H:5].[S:10]([C:11]([c:12]1[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]1[H:25])[H:20])[H:18],23.4304
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8].[O:21][O:22][H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8].[H:18][O:21][O:22][H:23],59.99856
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])([O:7][O:8])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])[H:16])([O:7][O:8][H:15])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11],123.428
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][H:14])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[O:15]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([O:4][H:14])([H:12])[H:13])([H:5])([H:6])[H:7].[H:8][O:15],27.5672
[C:0](=[N:1][O:2][H:5])([H:3])[H:4].[H:6]>>[C:0](=[N:1][O:2])([H:3])[H:4].[H:5][H:6],27.6981
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[O:6][O:7])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[O:6][O:7][H:11])([H:8])([H:9])[H:10],110.416
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])([H:11])[H:12])([O:6][O:7][H:16])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])([H:11])[H:12])([H:10])[O:6]1.[O:7][H:16],45.1872
[C:0](#[C:1][C:2]1=[C:3]([H:8])[C:4]([H:9])=[C:5][C:6]1([H:10])[H:11])[H:7]>>[C:0](#[C:1][C:2]1=[C:3]([H:8])[C:4]([H:9])=[C:5]([H:10])[C:6]1[H:11])[H:7],108.5748
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[C:3]([C:4](=[C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([C:2]([H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[C:4]1([C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])[H:16])([H:8])([H:9])[H:10],34.1833
[C:0]([C:1]([N:2]([H:7])[H:8])[H:6])([H:3])([H:4])[H:5].[C:9]([H:10])([H:11])[H:12]>>[C:0](=[C:1]([N:2]([H:7])[H:8])[H:6])([H:4])[H:5].[H:3][C:9]([H:10])([H:11])[H:12],-3.217496
[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]2([H:14])[C:4]([H:15])=[C:5]([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]2=[C:9]1[H:19].[H:20]>>[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]2([H:14])[C:4]([H:15])=[C:5]([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]2([H:20])[C:9]1[H:19],12.1336
[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[O:4])[H:8])([H:5])([H:6])[H:7].[O:12][O:13]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[O:4])([H:8])[O:12][O:13])([H:5])([H:6])[H:7],0.0
[C:0]([C:1](=[O:2])[H:5])([H:3])[H:4].[O:6][O:7]>>[C:0]([C:1](=[O:2])[H:5])([H:3])([H:4])[O:6][O:7],0.0
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5](=[C:6]([C:7]([H:16])([H:17])[H:18])[H:15])[H:14])([H:12])[H:13])[H:8]>>[C:0](#[C:1][C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[C:5]([H:14])[C:6]1([C:7]([H:16])([H:17])[H:18])[H:15])[H:8],155.77
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]([c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:26])[H:8])([H:6])[H:7].[C:15]([C:16]([c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])[H:27])([H:23])([H:24])[H:25],70.2912
